US03975390
N-methyl-piperazine is reacted with 3-nitro-4-chloro-benzophenone as described in Example 7 or 8 to obtain 3-nitro-4-(N-methyl-piperazino)-benzophenone with a yield of 90 %. The product melts at 94 °C.

reactant | N-methyl-piperazine | CN1CCNCC1 | C5H12N2
reactant | 3-nitro-4-chloro-benzophenone | [N+](=O)([O-])C=1C=C(C(=O)C2=CC=CC=C2)C=CC1Cl | C13H8ClNO3
product | 3-nitro-4-(N-methyl-piperazino)-benzophenone | yield of 90 % | [N+](=O)([O-])C=1C=C(C(=O)C2=CC=CC=C2)C=CC1N1CCN(CC1)C | C18H19N3O3
